US04202894
A mixture of 46.3 g of 4-tert.amyl-cyclohexane-1-carboxaldehyde, 92.3 g of (α-carbethoxy-ethylidene)-triphenyl-phosphorane and 7.6 g of benzoic acid in 250 ml of toluene is heated at reflux for 3.5 hours under nirogen gasification and the toluene is evaporated. The oily-crystalline residue is dissolved in 1600 ml of methanol/water (4:1) and exhaustively extracted with hexane. The combined hexane extracts are washed with sodium carbonate solution and water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 3-(4-tert.amyl-cyclohexyl)-2-methyl-acrylic acid ethyl ester of boiling point 113°-115° C./0.03 Torr.

reactant | 4-tert.amyl-cyclohexane-1-carboxaldehyde | 46.3 g | C(C)(C)(CC)C1CCC(CC1)C=O | C12H22O
reactant | (α-carbethoxy-ethylidene)-triphenyl-phosphorane | 92.3 g | C(=O)(OCC)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | benzoic acid | 7.6 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-tert.amyl-cyclohexyl)-2-methyl-acrylic acid ethyl ester | C(C)OC(C(=CC1CCC(CC1)C(C)(C)CC)C)=O | C17H30O2
